US08048610B2
At room temperature, 6.2 g (0.05 mole) of thioanisole and 6.9 g (0.055 mole) of dimethyl sulfate were stirred for 12 hours. To the reaction solution were added 100 g of water and 50 ml of diethyl ether. The water layer was taken out, obtaining an aqueous solution of the desired dimethylphenylsulfonium sulfate.

reactant | thioanisole | 0.05 mole, 6.2 g | C1(=CC=CC=C1)SC | C7H8S
reactant | dimethyl sulfate | 0.055 mole, 6.9 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | water | 100 g | O | H2O
product | dimethylphenylsulfonium sulfate | S(=O)(=O)([O-])[O-].C[S+](C1=CC=CC=C1)C.C[S+](C)C1=CC=CC=C1 | InChI=1S/2C8H11S.H2O4S/c2*1-9(2)8-6-4-3-5-7-8;1-5(2,3)4/h2*3-7H,1-2H3;(H2,1,2,3,4)/q2*+1;/p-2
